US06632831B2
[2-(2,6-Dichloro-phenylamino)-4-oxo-4H-thiazol-5-ylidene]-acetic Acid Methyl Ester
2,6-Dichlorophenylthiourea (3.0 g, 13.6 mmol) was dissolved in 50 mL of dry methanol and dimethyl acetylenedicarboxylate (13.8 mmol, 1.7 mL) was added over a 10-minute period. The mixture was stirred at 25° C. for 40 minutes, then the mixture was heated at 55° C. for 3 hours. The solvent was removed by rotvap, and the crude product was recrystallized from methanol to yield the desired product.

reactant | 2,6-Dichlorophenylthiourea | 13.6 mmol, 3.0 g | ClC1=C(C(=CC=C1)Cl)NC(=S)N | C7H6Cl2N2S
reactant | dimethyl acetylenedicarboxylate | 13.8 mmol, 1.7 mL | C(#CC(=O)OC)C(=O)OC | C6H6O4
solvent | methanol | 50 mL | CO | CH4O
product | [2-(2,6-Dichloro-phenylamino)-4-oxo-4H-thiazol-5-ylidene]-acetic Acid Methyl Ester | COC(C=C1C(N=C(S1)NC1=C(C=CC=C1Cl)Cl)=O)=O | C12H8Cl2N2O3S
